* extracted by klt extract --deck sky130
* parasitic model (--parasitics):
* - capacitance: net-to-ground for every net's own (non-coupled) area/perimeter, plus net-to-net for the vertical-overlap coupling `coupling` describes below -- a coupled net pair gets a direct capacitor between their two hub nodes, not just capacitors to the deck's ground/substrate net
* - coupling: vertical overlap (crossover) unconditionally -- where one net's conductor on an adjacent metal level sits directly over another *distinct* net's conductor, that overlap area is charged between the two nets instead of to ground (issue #760) -- plus lateral (same-layer, sidewall) coupling, but only for a net pair naming one of the caller's declared `--critical-net` nets (issue #976): facing-edge length within that layer's own minimum-spacing lookback is charged between the two nets, *additively* (not deducted from either net's substrate fringe term, unlike the vertical case -- a known simplification). Any same-layer pair with neither side named `--critical-net`, and fringe shielding in general, are still not modelled
* - resistance: single lumped series resistance per net, distributed as a star across that net's device terminals (issue #592) -- not a per-segment, distributed RC ladder, *unless* `--distributed-rc` names this net via `--critical-net` (issue #977, Epic #709 Phase 2b): then the net's terminals are ordered along their approximate physical spread and its total R/C is broken into a chain of per-segment resistors (segment length proportional to inter-terminal distance) with a ground capacitor at each terminal node (proportional to its adjacent segment length/2), instead of one star hub -- still an approximation (terminal position is a device-placement proxy, not true per-segment routing geometry), but a strictly finer-grained one than the single-hub star
* - frequency: quasi-static -- one frequency-independent R and C per net; no skin effect, no distributed transmission-line behavior

* cell ota_5t_layout_0
* pin N1
* pin TAIL_A,TAIL_B
* pin VOUT
* pin vsubs
.SUBCKT ota_5t_layout_0 N1 TAIL_A|TAIL_B VOUT vsubs
* device instance $1 r0 *1 6.1,3 nfet
M$1 \$2__t0 \$7 N1__t0 vsubs nfet L=1U W=6U AS=2.52P AD=2.52P PS=12.84U
+ PD=12.84U
* device instance $2 r0 *1 3.51,4 nfet
M$2 N1__t1 \$8 TAIL_A\x7cTAIL_B__t0 vsubs nfet L=0.5U W=8U AS=3.36P AD=3.36P
+ PS=16.84U PD=16.84U
* device instance $3 r0 *1 0.92,5 nfet
M$3 TAIL_A\x7cTAIL_B__t1 \$9 \$3__t0 vsubs nfet L=1U W=10U AS=4.2P AD=4.2P
+ PS=20.84U PD=20.84U
* device instance $4 r0 *1 6.1,9.4 nfet
M$4 \$6__t0 \$10 VOUT__t1 vsubs nfet L=1U W=6U AS=2.52P AD=2.52P PS=12.84U
+ PD=12.84U
* device instance $5 r0 *1 3.51,12.4 nfet
M$5 VOUT__t0 \$11 TAIL_A\x7cTAIL_B__t2 vsubs nfet L=0.5U W=8U AS=3.36P AD=3.36P
+ PS=16.84U PD=16.84U
* device instance _2_t0 r0 *1 0,0 
R_2_t0 \$2__t0 \$2 182.8571
* device instance _2 r0 *1 0,0 
C_2 \$2 vsubs 6.15828e-16
* device instance _3_t0 r0 *1 0,0 
R_3_t0 \$3__t0 \$3 304.7619
* device instance _3 r0 *1 0,0 
C_3 \$3 vsubs 1.003588e-15
* device instance _6_t0 r0 *1 0,0 
R_6_t0 \$6__t0 \$6 182.8571
* device instance _6 r0 *1 0,0 
C_6 \$6 vsubs 6.15828e-16
* device instance N1_t0 r0 *1 0,0 
RN1_t0 N1__t0 N1 272.98065
* device instance N1_t1 r0 *1 0,0 
RN1_t1 N1__t1 N1 272.98065
* device instance N1 r0 *1 0,0 
CN1 N1 vsubs 1.587078e-15
* device instance TAIL_A_TAIL_B_t0 r0 *1 0,0 
RTAIL_A_TAIL_B_t0 TAIL_A\x7cTAIL_B__t0 TAIL_A|TAIL_B 386.172259091
* device instance TAIL_A_TAIL_B_t1 r0 *1 0,0 
RTAIL_A_TAIL_B_t1 TAIL_A\x7cTAIL_B__t1 TAIL_A|TAIL_B 326.102531486
* device instance TAIL_A_TAIL_B_t2 r0 *1 0,0 
RTAIL_A_TAIL_B_t2 TAIL_A\x7cTAIL_B__t2 TAIL_A|TAIL_B 634.130609423
* device instance TAIL_A_TAIL_B r0 *1 0,0 
CTAIL_A_TAIL_B TAIL_A|TAIL_B vsubs 3.456005e-15
* device instance VOUT_t0 r0 *1 0,0 
RVOUT_t0 VOUT__t0 VOUT 327.142
* device instance VOUT_t1 r0 *1 0,0 
RVOUT_t1 VOUT__t1 VOUT 327.142
* device instance VOUT r0 *1 0,0 
CVOUT VOUT vsubs 1.762458e-15
.ENDS ota_5t_layout_0
